US09023840B2
Step 3: 4-{3-(Cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[(1S)-1-cyclohexylethyl]-2-fluorobenzamide
The 4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-2-fluorobenzoic acid (0.015 g, 0.027 mmol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (0.016 g, 0.042 mmol), and (1S)-1-cyclohexylethanamine (0.0080 mL, 0.055 mmol, Aldrich: Cat. #336513) in dry 1,2-dichloroethane (0.501 mL) (not all in solution) was stirred for 30 minutes at 60° C., then 14 hours at room temperature (all in solution). LC/MS data showed that the reaction was complete and the desired product was formed. The product was used as is without further purification. LCMS (M+H)+: m/z=657.3.

reactant | 4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-2-fluorobenzoic acid | 0.027 mmol, 0.015 g | C(#N)CC1(CN(C1)C1=CC(=C(C(=O)O)C=C1)F)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C27H30FN7O3Si
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.042 mmol, 0.016 g | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | (1S)-1-cyclohexylethanamine | 0.055 mmol, 0.0080 mL | C1(CCCCC1)[C@H](C)N | C8H17N
solvent | 1,2-dichloroethane | 0.501 mL | ClCCCl | C2H4Cl2
product | 4-{3-(Cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[(1S)-1-cyclohexylethyl]-2-fluorobenzamide | C(#N)CC1(CN(C1)C1=CC(=C(C(=O)N[C@@H](C)C2CCCCC2)C=C1)F)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C35H45FN8O2Si
